US06982348B2
1) tert-butyl (4RS,5SR)-5-(4-fluorophenyl)-2-oxo-4-{3-[(trifluoromethyl)thio]benzyl}-1,3-oxazolidine-3-carboxylate
To a solution of (4RS,5RS)-5-(4-fluorophenyl)-4-{3-[(trifluoromethyl)thio]benzyl}-1,3-oxazolidin-2-one (2.06 g, 5.55 mmol) in acetonitrile (20 ml) were added di-tert-butyl dicarbonate (1.45 g, 6.66 mmol) and 4-N,N-dimethylpyridine (68 mg, 0.56 mmol), and the mixture was stirred at room temperature for 1 hr. To the reaction solution was added water (100 ml) and the mixture was extracted with ethyl acetate (100 ml×2). The extract was washed successively with water and saturated brine, dried (anhydrous magnesium sulfate) and evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=10:1-1:1). Recrystallization from ethyl acetate-hexane gave the objective substance (2.17 g, 83%).

reactant | (4RS,5RS)-5-(4-fluorophenyl)-4-{3-[(trifluoromethyl)thio]benzyl}-1,3-oxazolidin-2-one | 5.55 mmol, 2.06 g | FC1=CC=C(C=C1)C1C(NC(O1)=O)CC1=CC(=CC=C1)SC(F)(F)F | C17H13F4NO2S
reactant | di-tert-butyl dicarbonate | 6.66 mmol, 1.45 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | water | 100 ml | O | H2O
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | tert-butyl (4RS,5SR)-5-(4-fluorophenyl)-2-oxo-4-{3-[(trifluoromethyl)thio]benzyl}-1,3-oxazolidine-3-carboxylate | FC1=CC=C(C=C1)C1C(N(C(O1)=O)C(=O)OC(C)(C)C)CC1=CC(=CC=C1)SC(F)(F)F | C22H21F4NO4S
